US06413974B1
2-Chloro-6-[(4-chlorobenzyl)amino]-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, 4-chlorobenzylamine, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-[(4-chlorobenzyl)amino]-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NCC1=CC=C(C=C1)Cl | C17H17Cl2N5
